US06177423B1
2-Allyloxy-5-bromo-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
Following the procedure of Example W1, a mixture of the 2-allyloxy-5-bromo-7-nitro-benzo[de] isoquinoline-1,3-dione from above, pyrrolidine (0.43 g, 6.0 mmol) and triethyl amine (1.2 g, 12 mmol) in DMF (10 mL) was reacted to give 0.91 g of the title compound.

reactant | 2-allyloxy-5-bromo-7-nitro-benzo[de] isoquinoline-1,3-dione | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C=C(C3)Br)[N+](=O)[O-])=O | C15H9BrN2O5
reactant | pyrrolidine | 6.0 mmol, 0.43 g | N1CCCC1 | C4H9N
reactant | triethyl amine | 12 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Allyloxy-5-bromo-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.91 g | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C=C(C3)Br)N3CCCC3)=O | C19H17BrN2O3
